US05708180
A mixture of 292 g (4 mol) of DMF and 102 g (0.887 mol) of crude, 80% pure, according to GC analysis, (remainder benzene) 2-cyano-but-2-enenitrile is added dropwise with stirring to 614 g (4 mol) of phosphorus oxychloride in the absence of moisture with ice-bath cooling at 20° to 25° C. in the course of 40 minutes. The mixture is then heated in the course of one hour to 95° to 100° C. and kept at this temperature for a further 24 hours. After cooling, the mixture is worked up in accordance with Example 1 (with respective doubling of the amounts of dichloromethane and water specified there). 24.2g (16.4% of theory) of 2-chloro-3-cyano-5-pyridinecarboxaldehyde are obtained as a crystalline product at a GC purity of 95.2%. Melting point 96° C. after recrystallization from cyclohexane.

reactant | DMF | 4 mol, 292 g | CN(C)C=O | C3H7NO
reactant | 2-cyano-but-2-enenitrile | C(#N)C(C#N)=CC | C5H4N2
reactant | phosphorus oxychloride | 4 mol, 614 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-chloro-3-cyano-5-pyridinecarboxaldehyde | 24.2g, 16.4% | ClC1=NC=C(C=C1C#N)C=O | C7H3ClN2O
